US05252571
Methyl (Z)-2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-ylidene)acetate (940 mg) was dissolved in 8 ml of N,N-dimethylformamide, and the solution was added dropwise to a suspension of sodium hydride (60% in oil, 192 mg) in 2 ml of N,N-dimethylformamide. The mixture was stirred for 30 minutes. To the mixture was added dropwise a solution of 752 mg of benzyl bromide in 2 ml of N,N-dimethylformamide. The stirring was continued for an hour under ice-cooling, the reaction mixture was poured onto ice water, and extracted with ethyl acetate. Then, the ethyl acetate layer was washed with water. After the drying of the organic layer over anhydrous magnesium sulfate, the solvent was distilled off. The resulting oily matter was solidified in isopropyl etherhexane to give 1.04 g of methyl (Z)-2-(4-benzyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-ylidene)acetate as yellow powder. The structural formula and physical data of this compound are shown in Table 14.

reactant | Methyl (Z)-2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-ylidene)acetate | 940 mg | O=C1/C(/SC2=C(N1)C=CC=C2)=C/C(=O)OC | C11H9NO3S
reactant | sodium hydride | 192 mg | [H-].[Na+]
reactant | benzyl bromide | 752 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | methyl (Z)-2-(4-benzyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-ylidene)acetate | 1.04 g | C(C1=CC=CC=C1)N1C(/C(/SC2=C1C=CC=C2)=C/C(=O)OC)=O | C18H15NO3S
